US07172749B2
3,4-Dichloro-6-fluoroaniline (1 equivalent) was reacted with 4-chloro-7-fluoro-6-nitroquinazoline (3.5 equivalents), in iso-propylalcohol. After filtration, 4-[(3,4-dichloro-6-fluorophenyl)amino]-7-fluoro-6-nitroquinazoline was obtained in 78% yield.

reactant | 3,4-Dichloro-6-fluoroaniline | 1 equivalent | ClC=1C=C(N)C(=CC1Cl)F | C6H4Cl2FN
reactant | 4-chloro-7-fluoro-6-nitroquinazoline | 3.5 equivalents | ClC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C8H3ClFN3O2
solvent | iso-propylalcohol | C(C)(C)O | C3H8O
product | 4-[(3,4-dichloro-6-fluorophenyl)amino]-7-fluoro-6-nitroquinazoline | 78% yield | ClC=1C=C(C(=CC1Cl)F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C14H6Cl2F2N4O2
